US05877174
1-(2,4-Dimethoxybenzyl)-2,3-dioxopiperazine was reacted with ethyl 4-bromobutyrate by the same method as in Reference Example 12 to obtain ethyl 4-[4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin-1-yl]butyrate as an oil.

reactant | 1-(2,4-Dimethoxybenzyl)-2,3-dioxopiperazine | COC1=C(CN2C(C(NCC2)=O)=O)C=CC(=C1)OC | C13H16N2O4
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | ethyl 4-[4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin-1-yl]butyrate | COC1=C(CN2C(C(N(CC2)CCCC(=O)OCC)=O)=O)C=CC(=C1)OC | C19H26N2O6
